US06559173B1
5-(3-Methyl-benzyl)-2H-pyrazol-3-ylamine
3-Oxo-4-m-tolyl-butyronitrile (2.5583 gms.) is then suspended in 50 mL of anhydrous EtOH. This suspension is treated with 1.0 mL of anhydrous hydrazine, and subsequently heated to refluxing temperature for 1 day. The reaction mixture is concentrated in vacuo. The residue is then triturated with isopropanol to precipitate out the 5-(3-methyl-benzyl)-2H-pyrazol-3-ylamine.

reactant | 3-Oxo-4-m-tolyl-butyronitrile | 2.5583 gms | O=C(CC#N)CC=1C=C(C=CC1)C | C11H11NO
reactant | hydrazine | 1.0 mL | NN | H4N2
solvent | EtOH | 50 mL | CCO | C2H6O
product | 5-(3-Methyl-benzyl)-2H-pyrazol-3-ylamine | CC=1C=C(CC=2C=C(NN2)N)C=CC1 | C11H13N3
